US05405857
Preparation of 1 (3-chloro-2-methylphenyl)thiosemicarbazide
19.3 g (0.1 mole) of 3-chloro-2-methylphenylhydrazinehydrochloride were dissolved in 200 ml of absolute ethanol. 11.64 g (0.12 mole) of potassium thiocyanate were added to the solution, and the mixture was heated during reflux for 16 hours. The mixture was then cooled, whereby the product was partially precipitated, and the mixture was subsequently evaporated to dryness by means of a rotating evaporator. The product was recrystallized from 200 ml water and 250 ml methanol, separated by filtration and washed thoroughly with water.

reactant | 3-chloro-2-methylphenylhydrazinehydrochloride | 0.1 mole, 19.3 g | Cl.ClC=1C(=C(C=CC1)NN)C
reactant | potassium thiocyanate | 0.12 mole, 11.64 g | [S-]C#N.[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (3-chloro-2-methylphenyl)thiosemicarbazide | ClC=1C(=C(C=CC1)NNC(=S)N)C | C8H10ClN3S
